US07109225B2
i]3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-phenyl}-2-isopropoxy-propionic acid
0.181 g of the above prepared 3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-phenyl}-2-isopropoxy-propionic acid ethyl ester (0.384 mmol) was dissolved in 6 ml of THF/EtOH=1/1, treated with 0.959 ml of 2N NaOH (5 eq.), and kept at ambient temperature for 14 h. The reaction mixture was then poured onto crashed ice/AcOEt/HCl dil., the aqueous phase reextracted once more with AcOEt, the combined organic layers washed with water, dried over magnesium sulfate, and evaporated to dryness. Boiling up in hexane, followed by decantation after cooling, yielded 0.149 g of the title compound as pale-yellow oil.

reactant | 3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-phenyl}-2-isopropoxy-propionic acid ethyl ester | 0.384 mmol | C(C)OC(C(CC1=CC(=C(C(=C1)C)OCCC=1N=C(OC1C)C1CCCCC1)C)OC(C)C)=O | C28H41NO5
reactant | NaOH | 2N, 0.959 ml, 5 eq. | [OH-].[Na+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF EtOH | 6 ml | C1CCOC1.CCO
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-3,5-dimethyl-phenyl}-2-isopropoxy-propionic acid | 0.149 g | C1(CCCCC1)C=1OC(=C(N1)CCOC1=C(C=C(C=C1C)CC(C(=O)O)OC(C)C)C)C | C26H37NO5
